US04906628
5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-2(1H)-pyrazinone
A stirred mixture of 5-(4-aminophenyl)-2(1H)pyrazinone hydrochloride (1.5 g, from hydrolysis of the corresponding acetamido derivative with hydrochloric acid), 4H-pyran-4-one (0.71 g) and water (15 ml) was heated under reflux for 21/2 hours under a nitrogen atmosphere. The resultant solution was neutralised to give a solid, 1.79 g, m.p. 345° C. (dec). Recrystallisation from aqueous ethanol gave the title compound, 0.93 g, m.p. 354°-357° C. (dec).

reactant | 5-(4-aminophenyl)-2(1H)pyrazinone hydrochloride | Cl.NC1=CC=C(C=C1)C=1N=CC(NC1)=O
reactant | hydrochloric acid | Cl | ClH
reactant | 4H-pyran-4-one | 0.71 g | O1C=CC(C=C1)=O | C5H4O2
solvent | water | 15 ml | O | H2O
product | 5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-2(1H)-pyrazinone | O=C1C=CN(C=C1)C1=CC=C(C=C1)C=1N=CC(NC1)=O | C15H11N3O2
